US07414050B2
h) 5-(3′-Amino-4,4-dimethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-1,3-dimethyl-tetrahydro-pyrimidin-2-one
The title compound is prepared from [2-bromo-6-(1,3-dimethyl-2-oxo-hexahydro-pyrimidin-5-yl)-pyridin-3-yl]-carbamic acid tert-butyl ester (as prepared in the previous step) and 4,4-dimethylpiperidine (US 2003236247) following the literature procedure of Buchwald (Org. Lett., 4, 2885-8 (2002)). The residue obtained is purified by silica gel chromatography with an appropriate solvent mixture. After isolation, removal of the BOC protecting group from the resulting intermediate is carried out by stirring at RT in TFA-DCM (1:2), monitoring by TLC for completion, and then concentration in vacuo.

reactant | [2-bromo-6-(1,3-dimethyl-2-oxo-hexahydro-pyrimidin-5-yl)-pyridin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC(=CC1)C1CN(C(N(C1)C)=O)C)Br)=O | C16H23BrN4O3
reactant | 4,4-dimethylpiperidine | CC1(CCNCC1)C | C7H15N
product | 5-(3′-Amino-4,4-dimethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-1,3-dimethyl-tetrahydro-pyrimidin-2-one | NC=1C(=NC(=CC1)C1CN(C(N(C1)C)=O)C)N1CCC(CC1)(C)C | C18H29N5O
